US08648087B2
Step E: Preparation of tert-butyl 3-chloro-2,4-difluorobenzoate:
A 125 mL, single-neck, round-bottomed flask was charged with di-tert-butoxy-N,N-dimethylmethanamine (48.2 ml, 201 mmol), 3-chloro-2,4-difluorobenzoic acid (9.67 g, 50.2 mmol), and DMF (50 ml). The reaction was heated to 80° C. for 48 hours. After cooling to ambient temperature, the reaction was diluted with saturated NaHCO3 and EtOAc. The aqueous phase was extracted with EtOAc, and the combined organic phases were washed with saturated NaHCO3 and brine, dried, filtered and concentrated to provide the desired product as a gold oil.

reactant | di-tert-butoxy-N,N-dimethylmethanamine | 201 mmol, 48.2 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | 3-chloro-2,4-difluorobenzoic acid | 50.2 mmol, 9.67 g | ClC=1C(=C(C(=O)O)C=CC1F)F | C7H3ClF2O2
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 3-chloro-2,4-difluorobenzoate | ClC=1C(=C(C(=O)OC(C)(C)C)C=CC1F)F | C11H11ClF2O2
